US05414077
To a cold, stirring methylene chloride solution (30 ml; 0° C.) of 2-chloro-4H-1,2,3-benzodioxaphosphorin-4-one (2.4 ml of 1M methylene chloride solution; 2.4 mmol) and pyridine (0.2 g; 2.4 mmol) was added the DMT-protected pseudonucleoside of Example 2, paragraph A (0.55 g; 0.8 mmol). After stirring at 0° C. for 1 hour, the reaction mixture was poured into 1M TEAB aqueous solution (60 ml). The organic solution was separated, dried, concentrated. The residue was purified by flash column chromatography, eluted with 1% Et3N/CH2Cl2, 1% Et3N/1%CH3OH/CH2Cl2. The combined fraction of the product was washed with 1M TEAB aqueous solution, dried over Na2SO4, and concentrated, affording 0.19 g, 65% of the phosphorylated DMT-protected acridine pseudonucleotide.

reactant | 2-chloro-4H-1,2,3-benzodioxaphosphorin-4-one | 2.4 mmol, 1M, 2.4 ml | C1=CC=C2C(=C1)C(=O)OP(O2)Cl | C7H4ClO3P
reactant | pyridine | 2.4 mmol, 0.2 g | N1=CC=CC=C1 | C5H5N
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | TEAB | 1M, 60 ml | CC[N+](CC)(CC)CC.[Br-]
product | acridine | 0.19 g, 65% | C1=CC=CC2=NC3=CC=CC=C3C=C12 | C13H9N
